US07482337B2
6-hydroxymethyl-1,2,3,4-tetrahydro-phenanthridine
A solution of 350 mg of ethyl 1,2,3,4-tetrahydro-phenanthridin-6-yl-carboxylate in 10 ml of tetrahydrofuran is added dropwise within five minutes to a suspension of 37 mg of lithium borohydride in 15 ml of tetrahydrofuran, wherein cooling with an ice bath. Then the ice bath is removed and the reaction mixture is stirred for a further 2.5 hours at ambient temperature. For working up, 2 ml of 1 M citric acid are added to the brown reaction solution wherein cooling with an ice bath. The mixture is stirred with 100 ml of ethyl acetate and 50 ml of water and adjusted to pH 10 with 4 N sodium hydroxide solution. The organic phase is separated off, washed with water, dried over magnesium sulphate and evaporated down. The flask residue is chromatographed through a silica gel column with ethyl acetate/petroleum ether (1:4 to 1:1) as eluant.

reactant | ethyl 1,2,3,4-tetrahydro-phenanthridin-6-yl-carboxylate | 350 mg | C1CCCC2=NC(=C3C=CC=CC3=C12)C(=O)OCC | C16H17NO2
reactant | lithium borohydride | 37 mg | [BH4-].[Li+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 6-hydroxymethyl-1,2,3,4-tetrahydro-phenanthridine | OCC=1N=C2CCCCC2=C2C=CC=CC12 | C14H15NO
